US07018995B2
Synthesis of Budesonide Hexadecylcarbonate. (Example 7)
To the solution of budesonide (431 mg, 1.0 mmol) in DCM (4.5 mL) was added heaxdecyl chloroformate (655 μL, 2.0 mmol) and Et3N (512 μL, 3.7 mmol) at room temperature. After reaction mixture was stirred at room temperature over night, it was poured into water (20 mL) and DCM (10 mL); the aqueous phase was extracted with DCM (10 mL). The combined organic phases were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo to provide crude budesonide hexadecylcarbonate. The product was purified by chromatography, eluted with Hexane: AcOEt=9:1 to 3:1 to provide 432 mg of 1:1 mixture of epimers (originated from budesonide) (99.38 area % purity on HPLC). 1H NMR (CDCl3) δ 0.80-2.40 (m, 53H), 2.56 (dt, 1H, 13.1 and 4.6 Hz), 4.30 (t, 2H, 6.7 Hz), 4.5-5.2 (m, 7H), 6.00 (s, 1H), 6.26 (d, 1H, 10.1 Hz), 7.3 (d, 1H, 10.1 Hz). 13C NMR(CDCl3) δ 14.16, 14.18, 14.34, 17.10, 17.27, 17.39, 17.71, 21.21, 22.88, 25.81, 28.79, 29.41, 29.56, 29.70, 29.76, 29.87, 30.54, 31.19, 32.11, 33.08, 33.59, 34.23, 35.19, 37.28, 40.68, 40.98, 44.37, 46.08, 47.52, 50.00, 53.07, 55.39, 55.49, 68.98, 69.73, 69.83, 69.95, 70.04, 82.10, 83.38, 97.71, 98.58, 104.70, 108.51, 122.57, 127.91, 155.08, 156.85, 170.48, 170.59, 186.84, 186.88, 202.10 and 203.38. Mass spectrum (m/e) 699 (M+).

reactant | budesonide | 1.0 mmol, 431 mg | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C | C25H34O6
reactant | chloroformate | 2.0 mmol, 655 μL | ClC(=O)[O-]
reactant | Et3N | 3.7 mmol, 512 μL | CCN(CC)CC | C6H15N
reactant | water | 20 mL | O | H2O
solvent | DCM | 4.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Budesonide Hexadecylcarbonate | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C.C(CCCCCCCCCCCCCCC)OC([O-])=O | InChI=1S/C25H34O6.C17H34O3/c1-4-5-21-30-20-11-17-16-7-6-14-10-15(27)8-9-23(14,2)22(16)18(28)12-24(17,3)25(20,31-21)19(29)13-26;1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-17(18)19/h8-10,16-18,20-22,26,28H,4-7,11-13H2,1-3H3;2-16H2,1H3,(H,18,19)/p-1/t16-,17-,18-,20+,21?,22+,23-,24-,25+;/m0./s1
